US07618970B2
tert-Butyl [(1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate
To a sulotion of 1-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazine (280 mg, 1.1 mmol), (1 S ,3R)-3- [(tert-butoxycarbonyl)amino] - 1 -isopropylcyclopentanecarboxylic acid (460 mg, 1.7 mmol) in methylene chloride (30 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.60 g, 1.4 mmol), and triethylamine (0.20 g, 2.0 mmol). After being stirred overnight, the reaction mixture was diluted with methylene chloride, washed with brine, dried over sodium sulfate, filtered and concentrated. The crude residue was purified by flash column chromatography to provide the desired product (200 mg, 35.1%). LCMS calculated for C25H37F3N4O3:(M+H) 499.3; found 499.2.

reactant | 1-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazine | 1.1 mmol, 280 mg | CC1=CC(=CC(=N1)N1CCNCC1)C(F)(F)F | C11H14F3N3
reactant | (1 S ,3R)-3- [(tert-butoxycarbonyl)amino] - 1 -isopropylcyclopentanecarboxylic acid | 1.7 mmol, 460 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.4 mmol, 0.60 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 2.0 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 200 mg, 35.1% | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C25H37F3N4O3
